US08232278B2
Synthesis of 2-acetamido-4,6-dichloro-pyrido[3,2-d]pyrimidine
A mixture of 2-acetamido-6-chloro-pyrido[3,2-d]pyrimidine (1.19 g, 5 mmol), N,N-diisopropylethylamine (2.6 ml, 15 mmol) and POCl3 (0.7 ml, 7.5 mmol) in dioxane (50 ml), was stirred at room temperature for 1 hour. After concentration under reduced pressure, the residue was redissolved in dichloromethane (500 ml) and extracted with cold water (200 ml) till pH=6-7. The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure to yield the crude title compound which was characterised as follows: MS (m/z): 257, 259 ([M+H]+, 100). This compound was used for further reactions without any purification.

reactant | 2-acetamido-6-chloro-pyrido[3,2-d]pyrimidine | 5 mmol, 1.19 g | C(C)(=O)NC=1N=CC2=C(N1)C=CC(=N2)Cl | C9H7ClN4O
reactant | N,N-diisopropylethylamine | 15 mmol, 2.6 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | POCl3 | 7.5 mmol, 0.7 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2-acetamido-4,6-dichloro-pyrido[3,2-d]pyrimidine | C(C)(=O)NC=1N=C(C2=C(N1)C=CC(=N2)Cl)Cl | C9H6Cl2N4O
